US08071608B2
Intermediate AU5: (R)-methyl 2-hydroxy-3-((S)-1-(triisopropylsilyloxy)propan-2-yloxy)propanoate Alternative Procedure
Magnesium trifluoromethanesulfonate (1.263 g, 3.92 mmol) was added to a mixture of (S)-1-(triisopropylsilyloxy)propan-2-ol (4.55 g, 19.59 mmol) and (R)-methyl oxirane-2-carboxylate (2 g, 19.59 mmol) in ethyl acetate (40 mL). The resulting suspension was heated to 80° C. for 72 hours. Further (R)-methyl oxirane-2-carboxylate (2 g, 19.59 mmol) was added and the mixture stirred at 80° C. for 48 hrs. Further (R)-methyl oxirane-2-carboxylate (2 g, 19.59 mmol) was added and the mixture stirred for 24 hrs. The mixture was allowed to cool, filtered through a bed of silica (˜10 g), washed through with EtOAc and evaporated. The crude product was purified by flash silica chromatography, elution gradient 10 to 50% EtOAc in isohexane, to afford the product (2.7 g, 41%).

reactant | Magnesium trifluoromethanesulfonate | 3.92 mmol, 1.263 g | FC(S(=O)(=O)[O-])(F)F.[Mg+2].FC(S(=O)(=O)[O-])(F)F
reactant | (S)-1-(triisopropylsilyloxy)propan-2-ol | 19.59 mmol, 4.55 g | C(C)(C)[Si](OC[C@H](C)O)(C(C)C)C(C)C | C12H28O2Si
reactant | (R)-methyl oxirane-2-carboxylate | 19.59 mmol, 2 g | O1[C@H](C1)C(=O)OC | C4H6O3
reactant | (R)-methyl oxirane-2-carboxylate | 19.59 mmol, 2 g | O1[C@H](C1)C(=O)OC | C4H6O3
reactant | (R)-methyl oxirane-2-carboxylate | 19.59 mmol, 2 g | O1[C@H](C1)C(=O)OC | C4H6O3
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | (R)-methyl 2-hydroxy-3-((S)-1-(triisopropylsilyloxy)propan-2-yloxy)propanoate | 2.7 g, 41% | O[C@@H](C(=O)OC)CO[C@H](CO[Si](C(C)C)(C(C)C)C(C)C)C | C16H34O5Si
